US06169090A
2-Ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid (2,6-difluorophenyl)amide
Starting from 2-ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid 4-nitrophenyl ester (0.10 g) and 2,6-difluoroaniline (0.093 ml). Purification by column chromatography on silica with 30% ethyl acetate in hexane plus 1% ammonia solution, followed by trituration with ether gave the title compound (0.040 g) as a white solid.

reactant | 2-ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid 4-nitrophenyl ester | 0.10 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C=1C2=C(C(=NC1)OC)OC(=C2)CC | C17H14N2O6
reactant | 2,6-difluoroaniline | 0.093 ml | FC1=C(N)C(=CC=C1)F | C6H5F2N
product | 2-Ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid (2,6-difluorophenyl)amide | 0.040 g | FC1=C(C(=CC=C1)F)NC(=O)C=1C2=C(C(=NC1)OC)OC(=C2)CC | C17H14F2N2O3
